US05008267
(1) Preparation of N,N', N"-trimethyl-N-(4-nitrophenyl)diethylenetriamine (compound 68)
In 7 ml of dimethyl sulfoxide were dissolved 1.41 g of p-fluoronitrobenzene and 14 g of N,N',N"-trimethyldiethylenetriamine, and the mixture was then stirred at 120° C. for 3 hours.

reactant | p-fluoronitrobenzene | 1.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N',N"-trimethyldiethylenetriamine | 14 g | CNCCN(CCNC)C | C7H19N3
solvent | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
product | N,N', N"-trimethyl-N-(4-nitrophenyl)diethylenetriamine | CN(CCN(CCNC)C)C1=CC=C(C=C1)[N+](=O)[O-] | C13H22N4O2
